datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7]([H:8])[H:9]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[C:7]([H:3])([H:8])[H:9],-9.263376
[C:0](#[C:1][S:2][H:4])[H:3].[C:5]([C:6](=[S:7])[H:10])([H:8])[H:9]>>[C:0](#[C:1][S:2])[H:3].[H:4][C:5]([C:6](=[S:7])[H:10])([H:8])[H:9],19.6648
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[C:7]1([H:16])([H:17])[C:8]([H:18])([H:19])[C:9]([H:20])([H:21])[C:10]2([H:22])[C:11]([H:23])([H:24])[C:12]([H:25])([H:26])[C:13]([H:27])([H:28])[C:14]2([H:29])[C:15]1([H:30])[H:31]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:23])[H:4].[C:7]1([H:16])([H:17])[C:8]([H:18])([H:19])[C:9]([H:20])([H:21])[C:10]2([H:22])[C:11]([H:24])[C:12]([H:25])([H:26])[C:13]([H:27])([H:28])[C:14]2([H:29])[C:15]1([H:30])[H:31],27.6144
[C:0](=[C:1]([C:2]([H:10])([H:11])[H:12])[C:3]([C:4]([C:5](=[C:6]([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:15])[H:16])([H:13])[H:14])([H:8])[H:9].[H:22]>>[C:0](=[C:1]([C:2]([H:10])([H:11])[H:12])[C:3]([C:4]([C:5](=[C:6]([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:15])[H:16])[H:14])([H:8])[H:9].[H:13][H:22],8.68581664
[C:0]([C:1]([C:2]([O:3][C:4]([C:5]([H:14])([H:15])[H:16])=[O:6])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1](=[C:2]([H:12])[H:13])[H:11])([H:7])([H:8])[H:9].[O:3]=[C:4]([C:5]([H:14])([H:15])[H:16])[O:6][H:10],198.3216
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7]([C:8]([C:9]([H:14])([H:15])[H:16])[C:10]([H:17])([H:18])[H:19])([H:11])([H:12])[H:13]>>[C:0](=[C:1]([C:2]([H:4])([H:5])[H:6])[C:8]([C:7]([H:11])([H:12])[H:13])([C:9]([H:14])([H:15])[H:16])[C:10]([H:17])([H:18])[H:19])[H:3],23.5141
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[H:15])[H:9])[H:8])([H:6])[H:7].[C:16]([C:17]([H:20])([H:21])[H:22])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[H:15])([H:9])[C:16]([C:17]([H:20])([H:21])[H:22])([H:18])[H:19])[H:8])([H:6])[H:7],24.2672
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[C:12](=[C:13]([C:14]([C:15]([H:21])([H:22])[H:23])[C:16](=[C:17]([H:25])[H:26])[H:24])[H:20])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][C:14]([C:13](=[C:12]([H:18])[H:19])[H:20])([C:15]([H:21])([H:22])[H:23])[C:16](=[C:17]([H:25])[H:26])[H:24],64.4336
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[H:9])[H:8])[H:7])([H:5])[H:6].[C:13](=[C:14]([C:15]([C:16]([H:21])([H:22])[H:23])[H:20])[H:19])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])([H:9])[C:15]([C:14](=[C:13]([H:17])[H:18])[H:19])([C:16]([H:21])([H:22])[H:23])[H:20])[H:8])[H:7])([H:5])[H:6],42.0492
[C:0](=[C:1]=[C:2]([H:4])[H:5])[H:3].[c:6]1[c:7]([H:12])[c:8]([H:13])[c:9]([H:14])[c:10]([H:15])[c:11]1[H:16]>>[C:0](=[C:1]=[C:2]([H:4])[H:5])([H:3])[c:6]1[c:7]([H:12])[c:8]([H:13])[c:9]([H:14])[c:10]([H:15])[c:11]1[H:16],0.0
[C:0](=[C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([C:4]([H:11])([H:12])[H:13])=[O:5])([H:6])[H:7].[O:14][H:15]>>[C:0](=[C:1]([C:2]([H:9])[H:10])[C:3]([C:4]([H:11])([H:12])[H:13])=[O:5])([H:6])[H:7].[H:8][O:14][H:15],-1.246832
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[c:9]1[c:10]([H:15])[c:11]([H:16])[c:12]([H:17])[c:13]([H:18])[c:14]1[H:19]>>[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])[H:4].[H:3][c:9]1[c:10]([H:15])[c:11]([H:16])[c:12]([H:17])[c:13]([H:18])[c:14]1[H:19],19.85308
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6].[c:13]1[c:14]([H:19])[c:15]([H:20])[c:16]([H:21])[c:17]([H:22])[c:18]1[H:23]>>[C:0](=[C:1]([C:2]([C:3]([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[c:13]1[c:14]([H:19])[c:15]([H:20])[c:16]([H:21])[c:17]([H:22])[c:18]1[H:23])[H:7])([H:5])[H:6],7.99144
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7](=[C:8]([O:9])[H:12])([H:10])[H:11]>>[C:0](=[C:1]=[C:2]([H:5])[H:6])[H:4].[H:3][O:9][C:8](=[C:7]([H:10])[H:11])[H:12],103.257
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])[C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])([O:7][O:8][H:19])[H:15])([H:9])([H:10])[H:11]>>[C:0]([C:1]1([C:2]([H:12])([H:13])[H:14])[C:3]([O:7][O:8][H:19])([H:15])[C:4]([H:16])([H:17])[O:5]1)([H:9])([H:10])[H:11].[O:6][H:18],56.0656
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11]([C:12]([H:21])([H:22])[H:23])=[C:13]([C:14](=[C:15]([H:25])[H:26])[H:24])[C:16](=[C:17]([H:28])[H:29])[H:27])[H:20])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:13]([C:11]([C:10](=[C:9]([H:18])[H:19])[H:20])[C:12]([H:21])([H:22])[H:23])([C:14](=[C:15]([H:25])[H:26])[H:24])[C:16](=[C:17]([H:28])[H:29])[H:27])[H:4],33.0954
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[S:4][H:11])[H:7])([H:5])[H:6].[S:12]([H:13])[H:14]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([S:4][H:11])[H:13])[H:7])([H:5])[H:6].[S:12][H:14],35.564
[C:0](=[C:1]([N:2]=[O:3])[H:6])([H:4])[H:5].[O:7]>>[C:0](=[C:1]([N:2]=[O:3])[H:6])[H:5].[H:4][O:7],15.129344
